US07192982B2
(2S)-2-Methoxy-3-{4-[6-(4-phenoxy-phenoxy)-hex-1-ynyl]-phenyl}-propionic acid
The title compound was prepared from 3-[4-(6-Hydroxy-hex-1-ynyl)-phenyl]-2-methoxy-propionic acid ethyl ester and 4-phenoxyphenol via the standard Mitsunobu coupling-hydrolysis procedure (Standard Procedure A) to produce the title compound. MS(ES) for C28H28O5[M+H]+: 445.2

reactant | 3-[4-(6-Hydroxy-hex-1-ynyl)-phenyl]-2-methoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)C#CCCCCO)OC)=O | C18H24O4
reactant | 4-phenoxyphenol | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
product | (2S)-2-Methoxy-3-{4-[6-(4-phenoxy-phenoxy)-hex-1-ynyl]-phenyl}-propionic acid | CO[C@H](C(=O)O)CC1=CC=C(C=C1)C#CCCCCOC1=CC=C(C=C1)OC1=CC=CC=C1 | C28H28O5
